US05183825
Sodium (1.25 g) was added to 60 mL of absolute ethanol under nitrogen atmosphere at room temperature. When all of the metal had reacted the mixture was cooled in ice and ethyl propionylacetate was added in one portion. The reaction mixture was brought to reflux temperature for 0.25 hours, an ethanol-tetrahydrofuran solution (10:1, 120 mL) of 2-bromomethylnaphthalene (10 g) added, and the resulting mixture heated at reflux temperature 15 hours. The reaction mixture was cooled to room temperature and the volatile materials removed in vacuo on the rotary evaporator. The residue was partitioned between saturated, aqueous NaCl solution and ethyl acetate. The organic phase was dried over MgSO4 and concentrated to an oily mixture which was purified by HPLC (hexane, ethyl acetate gradient elution) to give 5.2 g of ethyl-α-(2-naphthalenylmethyl)propionylacetate as a yellow oil.

reactant | Sodium | 1.25 g | [Na] | Na
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | ethyl propionylacetate | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | 2-bromomethylnaphthalene | 10 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | ethanol tetrahydrofuran | 120 mL | C(C)O.O1CCCC1
product | ethyl-α-(2-naphthalenylmethyl)propionylacetate | 5.2 g | C(C)OC(CC(C(C)CC1=CC2=CC=CC=C2C=C1)=O)=O | C18H20O3
